US07323466B2
d) (S)-2-[(4-Benzyloxy-2,5-difluoro-phenyl)-hydroxy-methyl]-morpholine-4-carboxylic acid tert-butyl ester
To a solution of 7.5 g of (S)-2-(4-benzyloxy-2,5-difluoro-benzoyl)-morpholine-4-carboxylic acid tert-butyl ester in methanol (90 ml) was added with cooling (0-5° C.) sodium borohydride (660 mg) in small portions. Stirring continued for 15 minutes with cooling before sodium bicarbonate (150 mL, saturated) was added. Organic material was partitioned into ethyl acetate (3×), organic phases were pooled, washed with brine and dried with Na2SO4 before being concentrated in vacuo to give 7.5 g of the title compound.

reactant | (S)-2-(4-benzyloxy-2,5-difluoro-benzoyl)-morpholine-4-carboxylic acid tert-butyl ester | 7.5 g | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(C1=C(C=C(C(=C1)F)OCC1=CC=CC=C1)F)=O | C23H25F2NO5
reactant | sodium borohydride | 660 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 90 ml | CO | CH4O
product | (S)-2-[(4-Benzyloxy-2,5-difluoro-phenyl)-hydroxy-methyl]-morpholine-4-carboxylic acid tert-butyl ester | 7.5 g | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(O)C1=C(C=C(C(=C1)F)OCC1=CC=CC=C1)F | C23H27F2NO5
